### PR TITLE
[Merged by Bors] - feat(AlgebraicGeometry): section of a k-scheme is a closed immersion

### PR DESCRIPTION
**Pull request by erdOne**
Co-authored-by: Christian Merten

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/Morphisms/ClosedImmersion.lean [hunk 1]
```diff
@@ -346,4 +349,47 @@ lemma isIso_of_isClosedImmersion_of_surjective {X Y : Scheme.{u}} (f : X ⟶ Y)
...
+  apply IsClosedImmersion.spec_of_surjective
+  apply Function.LeftInverse.surjective (g := φ)
+  exact fun x ↦ congr($hg.1 x)
+
+instance (priority := low) {X Y : Scheme} [Subsingleton Y] [X.Over Y] (f : Y ⟶ X) [f.IsOver Y] :
+    IsClosedImmersion f :=
+  isClosedImmersion_of_comp_eq_id (X ↘ Y) f (by simp)
+
+end Section
+
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Morphisms/ClosedImmersion.lean:393]:
```suggestion
```

File: Mathlib/AlgebraicGeometry/Morphisms/ClosedImmersion.lean [hunk 2]
```diff
@@ -346,4 +349,47 @@ lemma isIso_of_isClosedImmersion_of_surjective {X Y : Scheme.{u}} (f : X ⟶ Y)
...
+      (by simp [reassoc_of% hg]) ⟨_, rfl⟩
+  obtain ⟨S, rfl⟩ := hY
+  obtain ⟨φ, rfl⟩ := Spec.map_surjective f
+  obtain ⟨ψ, rfl⟩ := Spec.map_surjective g
+  rw [← Spec.map_comp, ← Spec.map_id, Spec.map_injective.eq_iff] at hg
+  apply IsClosedImmersion.spec_of_surjective
+  apply Function.LeftInverse.surjective (g := φ)
+  exact fun x ↦ congr($hg.1 x)
+
+instance (priority := low) {X Y : Scheme} [Subsingleton Y] [X.Over Y] (f : Y ⟶ X) [f.IsOver Y] :
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Morphisms/ClosedImmersion.lean:388]:
```suggestion
instance (priority := low) {X Y : Scheme.{u}} [Subsingleton Y] [X.Over Y] (f : Y ⟶ X) [f.IsOver Y] :
```

**Review by chrisflav — APPROVED** [review]

File: Mathlib/AlgebraicGeometry/Morphisms/ClosedImmersion.lean [hunk 3]
```diff
@@ -346,4 +349,46 @@ lemma isIso_of_isClosedImmersion_of_surjective {X Y : Scheme.{u}} (f : X ⟶ Y)
     (inferInstanceAs (Surjective f))
   exact this.1
 
+section Section
+
+nonrec theorem isClosedImmersion_of_comp_eq_id {X Y : Scheme.{u}} [Subsingleton Y]
+    (f : X ⟶ Y) (g : Y ⟶ X) (hg : g ≫ f = 𝟙 Y) :
```
Comment (joelriou) [inline Mathlib/AlgebraicGeometry/Morphisms/ClosedImmersion.lean:355]: This should probably be phrased using `Retract` from `CategoryTheory.Retract`.

**Comment by joelriou** [comment]
Thanks!

bors merge
